US08110578B2
7-(6-(2-Hydroxypropan-2-yl)pyridin-3-yl)-1-((trans)-4-methoxycyclohexyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
7-(6-(2-Hydroxypropan-2-yl)pyridin-3-yl)-1-(trans-4-methoxycyclohexyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (alternate approach). Ethyl 2-(3,5-dibromopyrazin-2-ylamino)acetate (1 equiv) and trans-4-methoxycyclohexanamine.hydrochloride (1.5 equiv), NMP and DIEA were combined and heated to 127° C. and maintained at that temperature for 18 h. Upon reaction completion, the mixture was cooled to 35° C. over 4 h. The batch was transferred to a mixture of ethyl acetate and 5% brine. The aqueous layer was removed and the organic layer containing the batch was washed successively with 5% brine and water. The organic layer containing the batch was concentrated by vacuum distillation to a low volume, cooled to ambient temperature and the solids were collected by vacuum filtration. The filter cake was washed with MTBE and the product was dried in a vacuum to give 41% yield of ethyl 2-(5-bromo-3-(trans-4-methoxycyclohexylamino)pyrazin-2-ylamino) acetate. A mixture of ethyl 2-(5-bromo-3-(trans-4-methoxycyclohexylamino)pyrazin-2-ylamino) acetate (1 equiv), water and 85% phosphoric acid (3:1) was heated to 80° C. over 1 h. Heating was maintained for 18 h to effect reaction completion. Upon reaction completion, the mixture was cooled to 25° C. and filtered to give a crude product as tan solid. The resulting solids were washed with water, slurried in water and filtered. The filter cake was washed with water until the pH of the filtrate was between 4 and 8. The resulting material was dried under vacuum to give 89% yield of 7-bromo-1-(trans-4-methoxycyclohexyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one. 7-Bromo-1-(trans-4-methoxycyclohexyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (1 equiv), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(2-(trimethylsilyloxy)propan-2-yl)pyridine (1 equiv), sodium carbonate (3 equiv) and PdCl2(AmPhos)2 (0.003 equiv) were combined in isopropanol and heated at 70° C. for 1.5 h. Standard work-up and purification afforded the protected compound in 93% yield. Deprotection using standard conditions for removal of a trimethylsilyl-group and isolation gave the title compound.

reactant | 7-Bromo-1-(trans-4-methoxycyclohexyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 1 equiv | BrC1=CN=C2C(=N1)N(C(CN2)=O)[C@@H]2CC[C@H](CC2)OC | C13H17BrN4O2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(2-(trimethylsilyloxy)propan-2-yl)pyridine | 1 equiv | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(C)(C)O[Si](C)(C)C)C | C17H30BNO3Si
reactant | sodium carbonate | 3 equiv | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | PdCl2(AmPhos)2 | 0.003 equiv | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 7-(6-(2-Hydroxypropan-2-yl)pyridin-3-yl)-1-((trans)-4-methoxycyclohexyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | OC(C)(C)C1=CC=C(C=N1)C1=CN=C2C(=N1)N(C(CN2)=O)[C@@H]2CC[C@H](CC2)OC | C21H27N5O3
